US06486190B1
A mixture of 2-amino-4,6-dimethyl-5-nitrobenzimidazole (1.3 g, 6.31 mmol), di-t-butyl dicarbonate (2.5 mL of 1M solution in tetrahydrofuran, 7.56 mmol), triethylamine (2.6 mL, 18.9 mmol) and dimethylaminopyridine (0.1 g) in 20% methanol/ethyl acetate (60 mL) is stirred at room temperature for 16 hours. The mixture is rotary evaporated. The residue is partitioned between chloroform and 3% aqueous sodium carbonate. The organic layer is dried (magnesium sulfate) and rotary evaporated. The residue is purified by flash chromatography on silica gel (30% ethyl acetate/hexane) to afford 2-(t-butoxycarbonyl)amino-4,6-dimethyl-5-nitrobenzimidazole.

reactant | 2-amino-4,6-dimethyl-5-nitrobenzimidazole | 6.31 mmol, 1.3 g | NC=1NC2=C(N1)C=C(C(=C2C)[N+](=O)[O-])C | C9H10N4O2
reactant | di-t-butyl dicarbonate | 7.56 mmol, 1M, 2.5 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 18.9 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methanol ethyl acetate | 60 mL | CO.C(C)(=O)OCC
product | 2-(t-butoxycarbonyl)amino-4,6-dimethyl-5-nitrobenzimidazole | C(C)(C)(C)OC(=O)NC=1NC2=C(N1)C=C(C(=C2C)[N+](=O)[O-])C | C14H18N4O4
